US05348944
To a solution of 1 -[N-benzyloxycarbonyl- (S) -alanyl]hexahydrofuro[3,4 -b]pyrrole-2(S)-carboxylic acid, ethyl ester in methanol, add 2.5 N sodium hydroxide and stir the mixture at room temperature for 18 hours. Concentrate the mixture under nitrogen, dilute the residue with ice-water and then make the mixture acidic with concentrated hydrochloric acid. Extract the aqueous solution with ethyl acetate and dry the organic phase over magnesium sulfate. Concentrate the organic phase and place it on a column of silica gel. Elute with chloroform:glacial acetic acid 9:1 to give 1-[N-benzyloxycarbonyl-(S)-alanyl]hexahydrofuro[3,4-b ]pyrrole-2(S)-carboxylic acid.

reactant | 1 -[N-benzyloxycarbonyl- (S) -alanyl]hexahydrofuro[3,4 -b]pyrrole-2(S)-carboxylic acid, ethyl ester | C(C1=CC=CC=C1)OC(=O)N[C@@H](C)C(=O)N1C2C(C[C@H]1C(=O)OCC)COC2 | C20H26N2O6
reactant | sodium hydroxide | 2.5 N | [OH-].[Na+]
solvent | methanol | CO | CH4O
product | 1-[N-benzyloxycarbonyl-(S)-alanyl]hexahydrofuro[3,4-b ]pyrrole-2(S)-carboxylic acid | C(C1=CC=CC=C1)OC(=O)N[C@@H](C)C(=O)N1C2C(C[C@H]1C(=O)O)COC2 | C18H22N2O6
